US05457205
N-[2-(4-Carbomethoxyphenyl)-1-methyylethyl]-2-hydroxy-2-(2-dimethylamino-thiazol-4-yl)ethanamine
5 g of 2-(N,N-dimethylamino)-4-bromoacetyl-thiazole in 250 ml of acetone are heated to reflux with 10 g of potassium hydrogen carbonate and 9.5 g of 2-(4-carbomethoxyphenyl)-1-methylethylamine-hydrochloride for 3 hours. After the reaction mixture has been cooled the inorganic products are removed by filtration, and the filtrate is concentrated in a rotary evaporator. The resulting oil residue is taken up in 150 ml of absolute methanol and, at 0°-5° C., 1.75 g of sodium borohydride are added in small portions. The mixture is then stirred at 0°-5° C. for one hour and at room temperature for 24 hours. Then ice-water are added to the reaction mixture, and it is acidified with concentrated hydrochloric acid, made alkaline with ammonia, while cooling in ice, and extracted with methylene chloride. The extract is dried over sodium sulphate, concentrated and purified on a silica gel column using ethyl acetate/methanol =8:2 as eluant.

reactant | 2-(N,N-dimethylamino)-4-bromoacetyl-thiazole | 5 g | CN(C)C=1SC=C(N1)C(CBr)=O | C7H9BrN2OS
reactant | potassium hydrogen carbonate | 10 g | C(O)([O-])=O.[K+]
reactant | 2-(4-carbomethoxyphenyl)-1-methylethylamine-hydrochloride | 9.5 g | Cl.C(=O)(OC)C1=CC=C(C=C1)CC(C)N
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | N-[2-(4-Carbomethoxyphenyl)-1-methyylethyl]-2-hydroxy-2-(2-dimethylamino-thiazol-4-yl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(=C)NCC(C=1N=C(SC1)N(C)C)O | C18H23N3O3S
